US07696229B2
1. Synthesis of (E)-2-hydroxybenzaldehyde oxime
Into a 500 mL round bottom flask was placed a solution of 2-hydroxybenzaldehyde (20 g, 163.93 mmol) in ethanol (200 mL). To this was added (H2NOH HCl) hydroxylamine hydrochloride (14 g, 197.18 mmol). To the mixture was added triethylamine (19.2 g, 190.10 mmol) slowly. The resulting solution was allowed to react, with stirring, for 5 hours while the temperature was maintained at 95° C. in a bath of oil. The reaction progress was monitored by TLC (ethyl acetate/petroleum ether=1:2). The mixture was concentrated by evaporation. The resulting solution was extracted two times with 150 mL of ethyl acetate and water. The resulting mixture was washed 3 times with 150 mL of water. The mixture was dried over MgSO4 and concentrated by evaporator. The residue was purified by eluting through a column with a 1:100 ethyl acetate/petroleum ether solvent system. This resulted in 10 g (43%) of (E)-2-hydroxybenzaldehyde oxime as a white solid.

reactant | 2-hydroxybenzaldehyde | 163.93 mmol, 20 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | hydroxylamine hydrochloride | 197.18 mmol, 14 g | Cl.NO
reactant | triethylamine | 190.10 mmol, 19.2 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | (E)-2-hydroxybenzaldehyde oxime | OC1=C(/C=N/O)C=CC=C1 | C7H7NO2
